US04946839
Preparation of cis-Azetidine-2,4-dicarboxamide
45.8 mg (196 μmol) of cis-N-benzylazetidine-2,4-dicarboxamide in 10 ml of glacial acetic acid (no reaction occurs in methanol) are hydrogenated in a Parr shaker over 11 mg of 10% Pd/C under a hydrogen pressure of 4 atm for 7 hours. The mixture is filtered through a fluted filter and the catalyst washed with several portions of methanol. Evaporation and drying in vacuo yields a colorless film which crystallizes slowly on addition of a few drops of methanol. After standing in a freezer overnight, the crystals are isolated, washed with a small volume of ethyl acetate/methanol (5:1), and dried in vacuo; yield 16.7 mg (60%). Mp. 215°-218° C. (dec.) after strong shrinking and darkening from approx. 200° C. on (measured with oil bath preheated to 190° C.). 1H NMR (D2O): δ 4.29 (t, 2H, J=8.5), 2.98 (dt, 1H, J=9 (t), 11 (d)), 2.23 (dt, 1H, J=8 (t), 11.5 (d)). IR (nujol): 3391, 3335, 3208, 3073, 1683, 1669, 1281, 1211, 1109, 1030, 843, 749, 722, 677 cm-1. Mass Spectrum: CI(isobutane): m/z 144 (M+H, 100%), 99 (56).

reactant | cis-N-benzylazetidine-2,4-dicarboxamide | 196 μmol, 45.8 mg | C(C1=CC=CC=C1)NC(=O)[C@@H]1N[C@@H](C1)C(=O)N | C12H15N3O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | 11 mg | [Pd] | Pd
product | cis-Azetidine-2,4-dicarboxamide | N1[C@H](C[C@H]1C(=O)N)C(=O)N | C5H9N3O2
